US06297239B1
Step E: Preparation of 2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile
4-[(4-Chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-2-fluoro-benzonitrile (0.337 g, 0.591 mmol), 3-chlorophenol (0.074 mL, 0.709 mmol), 40% KF on alumina (0.182 g), and 18-Crown-6 ether (0.018 g, 0.068 mmol) were refluxed in CH3CN for 40 hr under Ar. The reaction mixture was concentrated in vacuo, diluted with EtOAc, washed with satd. NaHCO3 solution, water, brine and dried (MgSO4). Filtration and concentration gave the title compound.

reactant | 4-[(4-Chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-2-fluoro-benzonitrile | 0.591 mmol, 0.337 g | ClC1=CC=C(C=C1)C(C1=CC(=C(C#N)C=C1)F)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H25ClFN3O
reactant | 3-chlorophenol | 0.709 mmol, 0.074 mL | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | KF | [F-].[K+]
reactant | 18-Crown-6 ether | 0.068 mmol, 0.018 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | CH3CN | CC#N | C2H3N
product | 2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile | ClC=1C=C(OC2=C(C#N)C=CC(=C2)C(C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(O)C2=CC=C(C=C2)Cl)C=CC1 | C42H29Cl2N3O2
